US06310262B1
3.5. Preparation of (1S,3S)-2,2-dimethyl-propionic acid 3-(tert-butyl-dimethyl-silanyloxy)-5-oxo-cyclohexyl ester
To a solution of 27.50 g of (1R,3S,5R)-2,2-dimethyl-propionic acid 3-(tert-butyl-dimethyl-silanyloxy)-5-hydroxy-cyclohexyl ester in 250 ml of dichloromethane was subsequently added at 0° a solution of 0.713 g of KBr and 2.656 g of NaHCO3 in 250 ml of water and 200 mg of 2,2,6,6-tetramethyl-piperidine-1-oxyl, radical. The stirred mixture was treated at 0° with 61.9 g of NaOCl (11.0%) over 1 h after which time t.l.c. showed completion of the reaction. The layers were separated, the organic layer was washed with 15% aqueous NaCl, dried over MgSO4 and evaporated to give 27.24 g of the pure (t.l.c.) title compound as a yellow oil. IR (neat): 1728s (C═O). MS (EI): 271/5 (M-tert-butyl).

reactant | (1R,3S,5R)-2,2-dimethyl-propionic acid 3-(tert-butyl-dimethyl-silanyloxy)-5-hydroxy-cyclohexyl ester | 27.50 g | C(C)(C)(C)[Si](O[C@@H]1C[C@@H](C[C@H](C1)O)OC(C(C)(C)C)=O)(C)C | C17H34O4Si
reactant | KBr | 0.713 g | [K+].[Br-]
reactant | NaHCO3 | 2.656 g | C(=O)(O)[O-].[Na+]
reactant | NaOCl | 61.9 g | [O-]Cl.[Na+]
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | water | 250 ml | O | H2O
product | (1S,3S)-2,2-dimethyl-propionic acid 3-(tert-butyl-dimethyl-silanyloxy)-5-oxo-cyclohexyl ester | C(C)(C)(C)[Si](O[C@H]1C[C@@H](CC(C1)=O)OC(C(C)(C)C)=O)(C)C | C17H32O4Si
